US04254267
(B) 4-(2-Pyridyl)-4-oxo-2-butenoic acid
A mixture of 15 g of 4-(2-pyridyl)-4-oxo-2-butenoic acid, methyl ester in chloroform (50 ml) is stirred with 3.14 g of sodium hydroxide in 50 ml of water for 5 hours at room temperature. The aqueous layer is separated, washed with chloroform and acidified with 4.71 g of acetic acid, yielding the title compound.

reactant | 4-(2-pyridyl)-4-oxo-2-butenoic acid, methyl ester | 15 g | N1=C(C=CC=C1)C(C=CC(=O)OC)=O | C10H9NO3
reactant | sodium hydroxide | 3.14 g | [OH-].[Na+]
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 50 ml | O | H2O
product | 4-(2-Pyridyl)-4-oxo-2-butenoic acid | N1=C(C=CC=C1)C(C=CC(=O)O)=O | C9H7NO3
